US04816466
In a mixture of 2 ml of acetic acid and 2 ml of ethyl acetate is dissolved 0.28 g of N-[N-[(S)-5-(4-piperidyl)-1-carboxypentyl]-L-alanyl]-N-(indan-2-yl)glycine tert-butyl ester, and 5 ml of 5N hydrogen choride-ethyl acetate solution is added to the solution, followed by standing at room temperature for 1 hour. 100 ml of ethyl ether is added to the reaction solution, and the precipitate which separates out is colleted by filtration to give 0.22 g of N-[N-[(S)-1-carboxy-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2yl)glycine.dihydrochloride as a colorless powder.

reactant | N-[N-[(S)-5-(4-piperidyl)-1-carboxypentyl]-L-alanyl]-N-(indan-2-yl)glycine tert-butyl ester | 0.28 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N[C@@H](CCCCC1CCNCC1)C(=O)O)C)=O)=O | C29H45N3O5
reactant | hydrogen choride-ethyl acetate | 5N, 5 ml | C(C)(=O)OCC.Cl
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | N-[N-[(S)-1-carboxy-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2yl)glycine.dihydrochloride | 0.22 g | Cl.Cl.C(=O)(O)[C@H](CCCCC1CCNCC1)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1 | InChI=1S/C25H37N3O5.2ClH/c1-17(27-22(25(32)33)9-5-2-6-18-10-12-26-13-11-18)24(31)28(16-23(29)30)21-14-19-7-3-4-8-20(19)15-21;;/h3-4,7-8,17-18,21-22,26-27H,2,5-6,9-16H2,1H3,(H,29,30)(H,32,33);2*1H/t17-,22-;;/m0../s1
